US08912208B2
C. 2-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoylamino}-2-methyl-propionic acid
A 1-dram vial was charged with 3-chloroaniline (0.2 Ml, excess) and 2-[4(6-chloro-pyridazin-3-yl)-benzoylamino]-2-methyl-propionic acid (0.75 g) as a solid. The vial was heated to 100° C. for 1.5 h. The crude reaction mixture was then dissolved in 2 Ml DMF and then purified by reverse-phase preparative HPLC to afford the title compound: 1H NMR (400 MHz, DMSO-D6) δ ppm 1.47 (s, 6 H), 7.03 (dd, J=7.45, 1.64 Hz, 1 H), 7.28 (d, J=9.35 Hz, 1H), 7.36 (t, J=8.08 Hz, 1 H), 7.56 (dd, J=8.34, 1.26 Hz, 1 H), 7.99 (d, J=8.59 Hz, 2 H), 8.12-8.19 (m, 4 H),8.52 (s, 1 H), 9.71 (s, 1 H); (M+H)+ 411.0.

reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 2-[4(6-chloro-pyridazin-3-yl)-benzoylamino]-2-methyl-propionic acid | 0.75 g | ClC1=CC=C(N=N1)C1=CC=C(C(=O)NC(C(=O)O)(C)C)C=C1 | C15H14ClN3O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-benzoylamino}-2-methyl-propionic acid | ClC=1C=C(C=CC1)NC1=CC=C(N=N1)C1=CC=C(C(=O)NC(C(=O)O)(C)C)C=C1 | C21H19ClN4O3
